* too_lossy_refine_control
* Refined varactor-loaded NLTL with passive target-band cleanup.
* role=control; cleanup=extraction_plus_rejection; source_only=True
.option method=gear maxord=2 reltol=2e-4 abstol=1e-12 vntol=1e-6 chgtol=1e-16 itl4=240
.model DVAR D(Is=1e-15 Rs=0.35 Cjo=4.60599137558e-11 Vj=0.62 M=0.6 Bv=18 Ibv=1e-06)
Vbias vb 0 DC 3.2
Vsrc src 0 SIN(0 2.6 50000000)
Rsrc src n0 75
Rrawload n80 0 225
Cfixed0 n0 0 9.6093550546e-13
Dvar0 n0 vb DVAR
Rbleed0 n0 0 15000
Rser1 n0 ns1 0.411514276788
Lser1 ns1 n1 6.75657777277e-08
Cfixed1 n1 0 9.6093550546e-13
Dvar1 n1 vb DVAR
Rbleed1 n1 0 15000
Rser2 n1 ns2 0.411514276788
Lser2 ns2 n2 6.75657777277e-08
Cfixed2 n2 0 9.6093550546e-13
Dvar2 n2 vb DVAR
Rbleed2 n2 0 15000
Rser3 n2 ns3 0.411514276788
Lser3 ns3 n3 6.75657777277e-08
Cfixed3 n3 0 9.6093550546e-13
Dvar3 n3 vb DVAR
Rbleed3 n3 0 15000
Rser4 n3 ns4 0.411514276788
Lser4 ns4 n4 6.75657777277e-08
Cfixed4 n4 0 9.6093550546e-13
Dvar4 n4 vb DVAR
Rbleed4 n4 0 15000
Rser5 n4 ns5 0.411514276788
Lser5 ns5 n5 6.75657777277e-08
Cfixed5 n5 0 9.6093550546e-13
Dvar5 n5 vb DVAR
Rbleed5 n5 0 15000
Rser6 n5 ns6 0.411514276788
Lser6 ns6 n6 6.75657777277e-08
Cfixed6 n6 0 9.6093550546e-13
Dvar6 n6 vb DVAR
Rbleed6 n6 0 15000
Rser7 n6 ns7 0.411514276788
Lser7 ns7 n7 6.75657777277e-08
Cfixed7 n7 0 9.6093550546e-13
Dvar7 n7 vb DVAR
Rbleed7 n7 0 15000
Rser8 n7 ns8 0.411514276788
Lser8 ns8 n8 6.75657777277e-08
Cfixed8 n8 0 9.6093550546e-13
Dvar8 n8 vb DVAR
Rbleed8 n8 0 15000
Rser9 n8 ns9 0.411514276788
Lser9 ns9 n9 6.75657777277e-08
Cfixed9 n9 0 9.6093550546e-13
Dvar9 n9 vb DVAR
Rbleed9 n9 0 15000
Rser10 n9 ns10 0.411514276788
Lser10 ns10 n10 6.75657777277e-08
Cfixed10 n10 0 9.6093550546e-13
Dvar10 n10 vb DVAR
Rbleed10 n10 0 15000
Rser11 n10 ns11 0.411514276788
Lser11 ns11 n11 6.75657777277e-08
Cfixed11 n11 0 9.6093550546e-13
Dvar11 n11 vb DVAR
Rbleed11 n11 0 15000
Rser12 n11 ns12 0.411514276788
Lser12 ns12 n12 6.75657777277e-08
Cfixed12 n12 0 9.6093550546e-13
Dvar12 n12 vb DVAR
Rbleed12 n12 0 15000
Rser13 n12 ns13 0.411514276788
Lser13 ns13 n13 6.75657777277e-08
Cfixed13 n13 0 9.6093550546e-13
Dvar13 n13 vb DVAR
Rbleed13 n13 0 15000
Rser14 n13 ns14 0.411514276788
Lser14 ns14 n14 6.75657777277e-08
Cfixed14 n14 0 9.6093550546e-13
Dvar14 n14 vb DVAR
Rbleed14 n14 0 15000
Rser15 n14 ns15 0.411514276788
Lser15 ns15 n15 6.75657777277e-08
Cfixed15 n15 0 9.6093550546e-13
Dvar15 n15 vb DVAR
Rbleed15 n15 0 15000
Rser16 n15 ns16 0.411514276788
Lser16 ns16 n16 6.75657777277e-08
Cfixed16 n16 0 9.6093550546e-13
Dvar16 n16 vb DVAR
Rbleed16 n16 0 15000
Rser17 n16 ns17 0.411514276788
Lser17 ns17 n17 6.75657777277e-08
Cfixed17 n17 0 9.6093550546e-13
Dvar17 n17 vb DVAR
Rbleed17 n17 0 15000
Rser18 n17 ns18 0.411514276788
Lser18 ns18 n18 6.75657777277e-08
Cfixed18 n18 0 9.6093550546e-13
Dvar18 n18 vb DVAR
Rbleed18 n18 0 15000
Rser19 n18 ns19 0.411514276788
Lser19 ns19 n19 6.75657777277e-08
Cfixed19 n19 0 9.6093550546e-13
Dvar19 n19 vb DVAR
Rbleed19 n19 0 15000
Rser20 n19 ns20 0.411514276788
Lser20 ns20 n20 6.75657777277e-08
Cfixed20 n20 0 9.6093550546e-13
Dvar20 n20 vb DVAR
Rbleed20 n20 0 15000
Rser21 n20 ns21 0.411514276788
Lser21 ns21 n21 6.75657777277e-08
Cfixed21 n21 0 9.6093550546e-13
Dvar21 n21 vb DVAR
Rbleed21 n21 0 15000
Rser22 n21 ns22 0.411514276788
Lser22 ns22 n22 6.75657777277e-08
Cfixed22 n22 0 9.6093550546e-13
Dvar22 n22 vb DVAR
Rbleed22 n22 0 15000
Rser23 n22 ns23 0.411514276788
Lser23 ns23 n23 6.75657777277e-08
Cfixed23 n23 0 9.6093550546e-13
Dvar23 n23 vb DVAR
Rbleed23 n23 0 15000
Rser24 n23 ns24 0.411514276788
Lser24 ns24 n24 6.75657777277e-08
Cfixed24 n24 0 9.6093550546e-13
Dvar24 n24 vb DVAR
Rbleed24 n24 0 15000
Rser25 n24 ns25 0.411514276788
Lser25 ns25 n25 6.75657777277e-08
Cfixed25 n25 0 9.6093550546e-13
Dvar25 n25 vb DVAR
Rbleed25 n25 0 15000
Rser26 n25 ns26 0.411514276788
Lser26 ns26 n26 6.75657777277e-08
Cfixed26 n26 0 9.6093550546e-13
Dvar26 n26 vb DVAR
Rbleed26 n26 0 15000
Rser27 n26 ns27 0.411514276788
Lser27 ns27 n27 6.75657777277e-08
Cfixed27 n27 0 9.6093550546e-13
Dvar27 n27 vb DVAR
Rbleed27 n27 0 15000
Rser28 n27 ns28 0.411514276788
Lser28 ns28 n28 6.75657777277e-08
Cfixed28 n28 0 9.6093550546e-13
Dvar28 n28 vb DVAR
Rbleed28 n28 0 15000
Rser29 n28 ns29 0.411514276788
Lser29 ns29 n29 6.75657777277e-08
Cfixed29 n29 0 9.6093550546e-13
Dvar29 n29 vb DVAR
Rbleed29 n29 0 15000
Rser30 n29 ns30 0.411514276788
Lser30 ns30 n30 6.75657777277e-08
Cfixed30 n30 0 9.6093550546e-13
Dvar30 n30 vb DVAR
Rbleed30 n30 0 15000
Rser31 n30 ns31 0.411514276788
Lser31 ns31 n31 6.75657777277e-08
Cfixed31 n31 0 9.6093550546e-13
Dvar31 n31 vb DVAR
Rbleed31 n31 0 15000
Rser32 n31 ns32 0.411514276788
Lser32 ns32 n32 6.75657777277e-08
Cfixed32 n32 0 9.6093550546e-13
Dvar32 n32 vb DVAR
Rbleed32 n32 0 15000
Rser33 n32 ns33 0.411514276788
Lser33 ns33 n33 6.75657777277e-08
Cfixed33 n33 0 9.6093550546e-13
Dvar33 n33 vb DVAR
Rbleed33 n33 0 15000
Rser34 n33 ns34 0.411514276788
Lser34 ns34 n34 6.75657777277e-08
Cfixed34 n34 0 9.6093550546e-13
Dvar34 n34 vb DVAR
Rbleed34 n34 0 15000
Rser35 n34 ns35 0.411514276788
Lser35 ns35 n35 6.75657777277e-08
Cfixed35 n35 0 9.6093550546e-13
Dvar35 n35 vb DVAR
Rbleed35 n35 0 15000
Rser36 n35 ns36 0.411514276788
Lser36 ns36 n36 6.75657777277e-08
Cfixed36 n36 0 9.6093550546e-13
Dvar36 n36 vb DVAR
Rbleed36 n36 0 15000
Rser37 n36 ns37 0.411514276788
Lser37 ns37 n37 6.75657777277e-08
Cfixed37 n37 0 9.6093550546e-13
Dvar37 n37 vb DVAR
Rbleed37 n37 0 15000
Rser38 n37 ns38 0.411514276788
Lser38 ns38 n38 6.75657777277e-08
Cfixed38 n38 0 9.6093550546e-13
Dvar38 n38 vb DVAR
Rbleed38 n38 0 15000
Rser39 n38 ns39 0.411514276788
Lser39 ns39 n39 6.75657777277e-08
Cfixed39 n39 0 9.6093550546e-13
Dvar39 n39 vb DVAR
Rbleed39 n39 0 15000
Rser40 n39 ns40 0.411514276788
Lser40 ns40 n40 6.75657777277e-08
Cfixed40 n40 0 9.6093550546e-13
Dvar40 n40 vb DVAR
Rbleed40 n40 0 15000
Rser41 n40 ns41 0.411514276788
Lser41 ns41 n41 6.75657777277e-08
Cfixed41 n41 0 9.6093550546e-13
Dvar41 n41 vb DVAR
Rbleed41 n41 0 15000
Rser42 n41 ns42 0.411514276788
Lser42 ns42 n42 6.75657777277e-08
Cfixed42 n42 0 9.6093550546e-13
Dvar42 n42 vb DVAR
Rbleed42 n42 0 15000
Rser43 n42 ns43 0.411514276788
Lser43 ns43 n43 6.75657777277e-08
Cfixed43 n43 0 9.6093550546e-13
Dvar43 n43 vb DVAR
Rbleed43 n43 0 15000
Rser44 n43 ns44 0.411514276788
Lser44 ns44 n44 6.75657777277e-08
Cfixed44 n44 0 9.6093550546e-13
Dvar44 n44 vb DVAR
Rbleed44 n44 0 15000
Rser45 n44 ns45 0.411514276788
Lser45 ns45 n45 6.75657777277e-08
Cfixed45 n45 0 9.6093550546e-13
Dvar45 n45 vb DVAR
Rbleed45 n45 0 15000
Rser46 n45 ns46 0.411514276788
Lser46 ns46 n46 6.75657777277e-08
Cfixed46 n46 0 9.6093550546e-13
Dvar46 n46 vb DVAR
Rbleed46 n46 0 15000
Rser47 n46 ns47 0.411514276788
Lser47 ns47 n47 6.75657777277e-08
Cfixed47 n47 0 9.6093550546e-13
Dvar47 n47 vb DVAR
Rbleed47 n47 0 15000
Rser48 n47 ns48 0.411514276788
Lser48 ns48 n48 6.75657777277e-08
Cfixed48 n48 0 9.6093550546e-13
Dvar48 n48 vb DVAR
Rbleed48 n48 0 15000
Rser49 n48 ns49 0.411514276788
Lser49 ns49 n49 6.75657777277e-08
Cfixed49 n49 0 9.6093550546e-13
Dvar49 n49 vb DVAR
Rbleed49 n49 0 15000
Rser50 n49 ns50 0.411514276788
Lser50 ns50 n50 6.75657777277e-08
Cfixed50 n50 0 9.6093550546e-13
Dvar50 n50 vb DVAR
Rbleed50 n50 0 15000
Rser51 n50 ns51 0.411514276788
Lser51 ns51 n51 6.75657777277e-08
Cfixed51 n51 0 9.6093550546e-13
Dvar51 n51 vb DVAR
Rbleed51 n51 0 15000
Rser52 n51 ns52 0.411514276788
Lser52 ns52 n52 6.75657777277e-08
Cfixed52 n52 0 9.6093550546e-13
Dvar52 n52 vb DVAR
Rbleed52 n52 0 15000
Rser53 n52 ns53 0.411514276788
Lser53 ns53 n53 6.75657777277e-08
Cfixed53 n53 0 9.6093550546e-13
Dvar53 n53 vb DVAR
Rbleed53 n53 0 15000
Rser54 n53 ns54 0.411514276788
Lser54 ns54 n54 6.75657777277e-08
Cfixed54 n54 0 9.6093550546e-13
Dvar54 n54 vb DVAR
Rbleed54 n54 0 15000
Rser55 n54 ns55 0.411514276788
Lser55 ns55 n55 6.75657777277e-08
Cfixed55 n55 0 9.6093550546e-13
Dvar55 n55 vb DVAR
Rbleed55 n55 0 15000
Rser56 n55 ns56 0.411514276788
Lser56 ns56 n56 6.75657777277e-08
Cfixed56 n56 0 9.6093550546e-13
Dvar56 n56 vb DVAR
Rbleed56 n56 0 15000
Rser57 n56 ns57 0.411514276788
Lser57 ns57 n57 6.75657777277e-08
Cfixed57 n57 0 9.6093550546e-13
Dvar57 n57 vb DVAR
Rbleed57 n57 0 15000
Rser58 n57 ns58 0.411514276788
Lser58 ns58 n58 6.75657777277e-08
Cfixed58 n58 0 9.6093550546e-13
Dvar58 n58 vb DVAR
Rbleed58 n58 0 15000
Rser59 n58 ns59 0.411514276788
Lser59 ns59 n59 6.75657777277e-08
Cfixed59 n59 0 9.6093550546e-13
Dvar59 n59 vb DVAR
Rbleed59 n59 0 15000
Rser60 n59 ns60 0.411514276788
Lser60 ns60 n60 6.75657777277e-08
Cfixed60 n60 0 9.6093550546e-13
Dvar60 n60 vb DVAR
Rbleed60 n60 0 15000
Rser61 n60 ns61 0.411514276788
Lser61 ns61 n61 6.75657777277e-08
Cfixed61 n61 0 9.6093550546e-13
Dvar61 n61 vb DVAR
Rbleed61 n61 0 15000
Rser62 n61 ns62 0.411514276788
Lser62 ns62 n62 6.75657777277e-08
Cfixed62 n62 0 9.6093550546e-13
Dvar62 n62 vb DVAR
Rbleed62 n62 0 15000
Rser63 n62 ns63 0.411514276788
Lser63 ns63 n63 6.75657777277e-08
Cfixed63 n63 0 9.6093550546e-13
Dvar63 n63 vb DVAR
Rbleed63 n63 0 15000
Rser64 n63 ns64 0.411514276788
Lser64 ns64 n64 6.75657777277e-08
Cfixed64 n64 0 9.6093550546e-13
Dvar64 n64 vb DVAR
Rbleed64 n64 0 15000
Rser65 n64 ns65 0.411514276788
Lser65 ns65 n65 6.75657777277e-08
Cfixed65 n65 0 9.6093550546e-13
Dvar65 n65 vb DVAR
Rbleed65 n65 0 15000
Rser66 n65 ns66 0.411514276788
Lser66 ns66 n66 6.75657777277e-08
Cfixed66 n66 0 9.6093550546e-13
Dvar66 n66 vb DVAR
Rbleed66 n66 0 15000
Rser67 n66 ns67 0.411514276788
Lser67 ns67 n67 6.75657777277e-08
Cfixed67 n67 0 9.6093550546e-13
Dvar67 n67 vb DVAR
Rbleed67 n67 0 15000
Rser68 n67 ns68 0.411514276788
Lser68 ns68 n68 6.75657777277e-08
Cfixed68 n68 0 9.6093550546e-13
Dvar68 n68 vb DVAR
Rbleed68 n68 0 15000
Rser69 n68 ns69 0.411514276788
Lser69 ns69 n69 6.75657777277e-08
Cfixed69 n69 0 9.6093550546e-13
Dvar69 n69 vb DVAR
Rbleed69 n69 0 15000
Rser70 n69 ns70 0.411514276788
Lser70 ns70 n70 6.75657777277e-08
Cfixed70 n70 0 9.6093550546e-13
Dvar70 n70 vb DVAR
Rbleed70 n70 0 15000
Rser71 n70 ns71 0.411514276788
Lser71 ns71 n71 6.75657777277e-08
Cfixed71 n71 0 9.6093550546e-13
Dvar71 n71 vb DVAR
Rbleed71 n71 0 15000
Rser72 n71 ns72 0.411514276788
Lser72 ns72 n72 6.75657777277e-08
Cfixed72 n72 0 9.6093550546e-13
Dvar72 n72 vb DVAR
Rbleed72 n72 0 15000
Rser73 n72 ns73 0.411514276788
Lser73 ns73 n73 6.75657777277e-08
Cfixed73 n73 0 9.6093550546e-13
Dvar73 n73 vb DVAR
Rbleed73 n73 0 15000
Rser74 n73 ns74 0.411514276788
Lser74 ns74 n74 6.75657777277e-08
Cfixed74 n74 0 9.6093550546e-13
Dvar74 n74 vb DVAR
Rbleed74 n74 0 15000
Rser75 n74 ns75 0.411514276788
Lser75 ns75 n75 6.75657777277e-08
Cfixed75 n75 0 9.6093550546e-13
Dvar75 n75 vb DVAR
Rbleed75 n75 0 15000
Rser76 n75 ns76 0.411514276788
Lser76 ns76 n76 6.75657777277e-08
Cfixed76 n76 0 9.6093550546e-13
Dvar76 n76 vb DVAR
Rbleed76 n76 0 15000
Rser77 n76 ns77 0.411514276788
Lser77 ns77 n77 6.75657777277e-08
Cfixed77 n77 0 9.6093550546e-13
Dvar77 n77 vb DVAR
Rbleed77 n77 0 15000
Rser78 n77 ns78 0.411514276788
Lser78 ns78 n78 6.75657777277e-08
Cfixed78 n78 0 9.6093550546e-13
Dvar78 n78 vb DVAR
Rbleed78 n78 0 15000
Rser79 n78 ns79 0.411514276788
Lser79 ns79 n79 6.75657777277e-08
Cfixed79 n79 0 9.6093550546e-13
Dvar79 n79 vb DVAR
Rbleed79 n79 0 15000
Rser80 n79 ns80 0.411514276788
Lser80 ns80 n80 6.75657777277e-08
Cfixed80 n80 0 9.6093550546e-13
Dvar80 n80 vb DVAR
Rbleed80 n80 0 15000
Rext n80 ext_r 18.75
Lext ext_r ext_l 2.3952998497e-07
Cext ext_l v150 4.7e-12
Rload150 v150 0 150
Rtrap50 n80 tr50_r 8.33333333333
Ltrap50 tr50_r tr50_l 1.01321183642e-06
Ctrap50 tr50_l 0 1e-11
Rtrap100 n80 tr100_r 9.375
Ltrap100 tr100_r tr100_l 3.37737278808e-07
Ctrap100 tr100_l 0 7.5e-12
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 5e-10 5.5e-07 0 2e-10
wrdata too_lossy_refine_control_tran.csv time v(n0) v(n40) v(v150) i(Vsrc) i(Vbias)
.endc
.end
